US07812020B2
4-Chloro-2-methoxy-6-morpholin-4-ylpyridin-3-ylamine
To a solution of 4-(4-chloro-6-methoxy-5-nitropyridin-2-yl)-morpholine (0.82 g) in concentrated hydrochloric acid (50 mL) was added a solution of stannous dichloride (3.38 g) in concentrated hydrochloric acid (80 mL). The reaction mixture was heated to 75° C. for 1 hour and then poured on to chrushed ice (400 g) and extracted with ethyl acetate (2×100 mL). The combined organic phases were dried over magnesium sulfate and concentrated in vacuo, to furnish 0.45 g (61% yield) of the title compound as an off-white solid. LC-MS (m/z) 244 (M+); tR=1.48, (UV, ELSD) 89%, 94%. 1H NMR (500 MHz, CDCl3): 3.30 (m, 4H), 3.65 (br s, 2H), 3.85 (m, 4H), 3.97 (s, 3H), 6.20 (s, 1H).

reactant | 4-(4-chloro-6-methoxy-5-nitropyridin-2-yl)-morpholine | 0.82 g | ClC1=CC(=NC(=C1[N+](=O)[O-])OC)N1CCOCC1 | C10H12ClN3O4
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | hydrochloric acid | 80 mL | Cl | ClH
product | 4-Chloro-2-methoxy-6-morpholin-4-ylpyridin-3-ylamine | 0.45 g, 61% yield | ClC1=C(C(=NC(=C1)N1CCOCC1)OC)N | C10H14ClN3O2
